US08003649B2
A mixture of 1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1,4-diazepane and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Waters XTerra C18 column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1,4-diazepan-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1,4-diazepane | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCNCCC1 | C11H13ClF3N3
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 6-[4-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1,4-diazepan-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCN(CCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C17H14ClF6N7
